US06392059B1
To 224.0 mg(2.28 mmol) of (S)-5-methyl-2(5H)-furanone were added 557.9 mg(1.5 equivalents) of 4,5,6,7-tetrahydroisobenzofuran in 2 ml of dehydrated ether solution and 1.06 g of lithium perchlorate, and, after flushing with argon, the mixture was stirred for 168 hours at room temperature. The reaction mixture was poured into 20 ml of water, which was extracted with methylene chloride(10 ml×3). The organic layer was dried over anhydrous magnesium sulfate, filtered and solvent was distilled off under reduced pressure. The residue was purified by means of silica gel column chromatography(methylene chloride, then methylene chloride:ethyl acetete=10:1) to obtain 292.2 mg of (3S, 3aS, 4S, 9R, 9aR)-4,9-epoxy-3-methyl-3a,4,5,6,7,8,9,9a-octahydronaphtho[2,3-c]furan-1(3H)-one (yield 58%).

reactant | (S)-5-methyl-2(5H)-furanone | 2.28 mmol, 224.0 mg | C[C@H]1C=CC(O1)=O | C5H6O2
reactant | 4,5,6,7-tetrahydroisobenzofuran | 557.9 mg, 1.5 equivalents | C=1OC=C2CCCCC12 | C8H10O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | lithium perchlorate | 1.06 g | Cl(=O)(=O)(=O)[O-].[Li+]
product | (3S, 3aS, 4S, 9R, 9aR)-4,9-epoxy-3-methyl-3a,4,5,6,7,8,9,9a-octahydronaphtho[2,3-c]furan-1(3H)-one | 292.2 mg, yield 58% | O1[C@@H]2C=3CCCCC3[C@H]1[C@@H]1C(O[C@H]([C@H]12)C)=O | C13H16O3
